US04594341
6-t-Butoxycarbonylamino-4-N-(1-carbomethoxyethyl)-perhydro-1,4-thiazepin-5-one
The above-named compound is prepared from 6-t-butoxycarbonylamino-perhydro-1,4-thiazepin-5-one (0.1 g) and methyl iodopropionate (0.11 g) according to the procedure described in Example 4. The product (0.11 g) is obtained after chromatography. The NMR spectrum is consistent with the assigned structure.

reactant | 6-t-butoxycarbonylamino-perhydro-1,4-thiazepin-5-one | 0.1 g | C(C)(C)(C)OC(=O)NC1C(NCCSC1)=O | C10H18N2O3S
reactant | methyl iodopropionate | 0.11 g | IC(C(=O)OC)C | C4H7IO2
product | 6-t-Butoxycarbonylamino-4-N-(1-carbomethoxyethyl)-perhydro-1,4-thiazepin-5-one | 0.11 g | C(C)(C)(C)OC(=O)NC1C(N(CCSC1)C(C)C(=O)OC)=O | C14H24N2O5S
